US06610707B1
(2S)-1-[(4-Fluorophenyl)sulfonyl]-2-piperidinecarboxamide (286 mg) [see Preparation 40] was added to a solution of triethyloxonium hexafluorophosphate (304 mg) in dichloromethane (5 ml). The reaction mixture was stirred at room temperature for 18 hours after which time the mixture was diluted with dichloromethane and washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, dried over magnesium sulphate and the solvent was removed under reduced pressure to afford ethyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboximidate (290 mg).

reactant | (2S)-1-[(4-Fluorophenyl)sulfonyl]-2-piperidinecarboxamide | 286 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)N | C12H15FN2O3S
reactant | triethyloxonium hexafluorophosphate | 304 mg | F[P-](F)(F)(F)(F)F.C(C)[O+](CC)CC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | ethyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboximidate | 290 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(OCC)=N | C14H19FN2O3S
